US04954518
10.0 g of 3-amino-4-phenoxyanisole was dissolved in 50 ml of pyridine. Thereto was dropwise added 5.59 g of methanesulfonyl chloride in 10 minutes with ice-cooling. The mixture was stirred for 1 hour at 20°-25° C. The reaction mixture was introduced into a mixture of 200 ml of ethyl acetate and 100 ml of water. The resulting organic layer was separated and washed with three 100-ml portions of 2N hydrochloric acid and then with a saturated aqueous sodium chloride solution. The organic layer was separated, dried with anhydrous magnesium sulfate, and subjected to distillation under reduced pressure to remove the solvent. The resulting crystal was recrystallized from isopropyl alcohol to obtain 12.5 g (yield: 91.9%) of 3-methylsulfonylamino4-phenoxyanisole having a melting point of 109.5°-111° C.

reactant | 3-amino-4-phenoxyanisole | 10.0 g | NC=1C=C(C=CC1OC1=CC=CC=C1)OC | C13H13NO2
reactant | methanesulfonyl chloride | 5.59 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
reactant | water | 100 ml | O | H2O
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 3-methylsulfonylamino4-phenoxyanisole | 12.5 g, yield: 91.9% | CS(=O)(=O)NC=1C=C(C=CC1OC1=CC=CC=C1)OC | C14H15NO4S
